* sg13g2-lna -- DR-0003 Option-A Stage-2 flat core, supply-ramp startup /
* latch check (issue #33 / DR-0003 Stage-2 sizing-amendment evidence).
* Generated from sim/biasref-topology/testbench/tb_servo_startup.spice.tmpl
* by sim/biasref-topology/run_biasref_sweep.sh -- do not edit a generated
* netlist-snapshots/*.spice file directly, edit this template and re-run.
*
* Generated for: MOS_SECTION=mos_ss HBT_SECTION=hbt_wcs
* TEMP=-40 C VDD=1.62 V
*
* The same Stage-2 core as tb_servo_minigrid.spice.tmpl (see that
* template's header for the DUT inventory), now exercised by the
* committed startup convention: VDD ramps 0 V -> target in 1 us, holds
* to 12 us, and the runner checks the island current's last samples
* agree with each other (settled, no ringing) and match the same
* cell's op value (no latch to a different stable state). The ramp
* ends at three cells: bcs/125 C/1.98 V, wcs/-40 C/1.62 V and
* typ/27 C/1.80 V -- the same cells the committed lna-bias-pvt and this
* experiment's own Phase C use.
*
* What the ramp must prove, on top of Phase C's skeleton evidence: the
* Stage-2 core closes a SECOND loop (the amp-servo) on top of the
* skeleton's self-biased PTAT loop. The seed leg still boots the
* skeleton; the servo's own degenerate state (banks off, vl = 0) is
* escaped because the amp's input pair turns on as vbg rises with the
* skeleton boot and pulls the gate bus gsvo down until the bank feeds
* Rl up to the servo constraint -- all inside this 12 us window at
* every cell, or the verdict records it.
*
* The initial tran step (1e-9) is the sg13g2-bandgap fleet's own
* documented cure for the ngspice VBIC boot-desert "Timestep too
* small" abort at exactly this class of stiff pre-charge instant
* (their closed-loop-startup / closed-loop-vref-pvt header comments,
* issues #58/#151): with the committed 5e-8 initial step this deck
* aborts at the bcs/125 C cell inside the first microsecond -- the
* ramp shape and every verdict criterion are unchanged; only the
* solver's initial march is finer. gmin=1e-10 is VALUE-IDENTICAL to
* ngspice's default (see the minigrid template's note).

.lib "/Users/rwalters/share/pdk/ihp-sg13g2/libs.tech/ngspice/models/cornerHBT.lib" hbt_wcs
.lib "/Users/rwalters/share/pdk/ihp-sg13g2/libs.tech/ngspice/models/cornerMOShv.lib" mos_ss
.options temp=-40 tnom=27 gmin=1e-10

Vvdd vdd 0 pwl(0 0 1e-6 1.62 1.2e-5 1.62)
Vssa vss 0 dc 0

XMb nc_b nc_b vdd vdd sg13_hv_pmos w=10u l=1u ng=1 m=1
XQb nc_b nc_a nc_e vss npn13G2 Nx=8
Rp  nc_e vss 3.4k
XMa nc_a nc_b vdd vdd sg13_hv_pmos w=10u l=1u ng=1 m=1
XQa nc_a nc_a vss vss npn13G2 Nx=1
Rseed vdd nc_a 10meg

XMv vbg nc_b vdd vdd sg13_hv_pmos w=10u l=1u ng=1 m=1
Rsum vbg cb3 18.4k
XQc cb3 cb3 vss vss npn13G2 Nx=1

XMnp1 gsvo vbg es vss sg13_hv_nmos w=10u l=1u ng=1 m=1
XMnp2 dn vl es vss sg13_hv_nmos w=10u l=1u ng=1 m=1
Rtail es vss 9.53k
XMld dn dn vdd vdd sg13_hv_pmos w=10u l=1u ng=1 m=1
XMlm gsvo dn vdd vdd sg13_hv_pmos w=10u l=1u ng=1 m=1

XMref vl gsvo vdd vdd sg13_hv_pmos w=40u l=1u ng=1 m=1
Rl vl vss 26k
XMis bref gsvo vdd vdd sg13_hv_pmos w=512u l=1u ng=1 m=1
XQ3 bref bref vss vss npn13G2 Nx=1

.control
pre_osdi /Users/rwalters/share/pdk/ihp-sg13g2/libs.tech/ngspice/osdi/psp103.osdi
pre_osdi /Users/rwalters/share/pdk/ihp-sg13g2/libs.tech/ngspice/osdi/psp103_nqs.osdi
pre_osdi /Users/rwalters/share/pdk/ihp-sg13g2/libs.tech/ngspice/osdi/mosvar.osdi
save @q.xq3.qnpn13g2[ic]
tran 1e-9 1.2e-5
let iq3v = @q.xq3.qnpn13g2[ic]
let n = length(iq3v) - 1
let s1 = iq3v[n]
let s2 = iq3v[n-10]
let s3 = iq3v[n-25]
wrdata /Users/rwalters/GitHub/sg13g2-lna/.loom/worktrees/issue-33/sim/biasref-topology/corners/20260921-173323-2aeafef/servo_startup_wcs_-40c_vdd1.62v.dat iq3v
echo "STARTUP iq3_end $&s1 iq3_s2 $&s2 iq3_s3 $&s3"
echo "BENCH_COMPLETE"
quit
.endc
.end
